US07365069B2
N-(4-Butylphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (1 g, 6.7 mmol) and 4-n-butylaniline (1 g, 6.7 mmol) by following the procedure described in preparation 10 (1.27 g, yield 63.66%). 1H-NMR (CDCl3):δ 0.91-0.95 (t, 3H), 1.33-1.39 (m, 2H), 1.56-1.63 (m, 2H), 2.52 (s, 3H), 2.56-2.6 (m, 2H), 4.8 (bs, 2H, D2O exchangeable), 6.88-6.9 (d, 2H), 7.15-7.17 (d, 2H), 7.27-7.29 (m, 2H), 7.79-7.81 (d, 2H). MS m/z:299.3 (M+).

reactant | 4-methylthiobenzonitrile | 6.7 mmol, 1 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-n-butylaniline | 6.7 mmol, 1 g | C(CCC)C1=CC=C(N)C=C1 | C10H15N
product | N-(4-Butylphenyl)-4-(methylthio)benzenecarboximidamide | C(CCC)C1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C18H22N2S
